US04607034
Synthesis of 2-(4-cyclopentylcarbamoyl-piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline (Compound No. 3)
In 30 ml of dioxane, there was dissolved 1.16 g. (4 mmole) of 2-piperazino-4-amino-6,7-dimethoxyquinazoline. To the resultant solution was added dropwise 0.45 g. (4 mmole) of cyclopentyl isocyanate at room temperature and the mixture was stirred overnight at room temperature. The precipitated crystals were recovered by filtration to obtain 1.34 g. of the desired product.

reactant | 2-piperazino-4-amino-6,7-dimethoxyquinazoline | 4 mmole | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | cyclopentyl isocyanate | 4 mmole | C1(CCCC1)N=C=O | C6H9NO
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-(4-cyclopentylcarbamoyl-piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | Yield: 83.6% | C1(CCCC1)NC(=O)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C20H28N6O3
